US07115611B2
C] [rac]-[2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy-acetic acid ethyl ester
To 0.0944 g (0.336 mmol) of the above prepared (example 1H]) [2-(3-methoxy-propyl)-4-methylamino-phenoxy]-acetic acid ethyl ester and 0.100 g (0.305 mmol) of the above prepared [rac]-3-(1-chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine, dissolved in 1.9 ml of abs. DMSO, were added successively 0.0505 g of K2CO3 (0.366 mmol) and 0.0503 g (0.336 mmol) of NaI. The reaction was allowed to proceed for 5 h at 50° C. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2), afforded 0.082 g of the title compound as light yellow oil.

reactant | [2-(3-methoxy-propyl)-4-methylamino-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)CCCOC)=O | C15H23NO4
reactant | [rac]-3-(1-chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | ClC(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C17H17ClF3N
reactant | K2CO3 | 0.366 mmol, 0.0505 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.336 mmol, 0.0503 g | [Na+].[I-]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy-acetic acid ethyl ester | 0.082 g | C(C)OC(COC1=C(C=C(C=C1)N(C(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)CCCOC)=O | C32H39F3N2O4
